US06867204B2
Benzyl chloroformate (1.877 g, 0.011 mol) was added dropwise to a solution of 8-bromo-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazine (2.85 g, 0.01 mol) in a 1:1 mixture of ethyl acetate (30 mL) and 10% aqueous sodium hydroxide (30 mL). After 3 hours at ambient temperature, the layers were separated and the organic phase was washed with water (2×50 mL), saturated aqueous sodium bicarbonate (50 mL), dried (K2CO3) and concentrated in vacuo and the residue was purified by column chromatography on silica gel (eluting with hexane-ethyl acetate; 7:3,V/V) to give 8-bromo-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester as an oil (3.47 g, 98%). A sample was recrystallized from ethanol-water. MS: MH+ 383. M.P. 95.0-97.7° C.

reactant | Benzyl chloroformate | 0.011 mol, 1.877 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 8-bromo-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazine | 0.01 mol, 2.85 g | BrC1=CC(=CC=2NCCOC21)Cl | C8H7BrClNO
reactant | sodium hydroxide | 30 mL | [OH-].[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 8-bromo-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester | 3.47 g, 98% | C(C1=CC=CC=C1)OC(=O)N1CCOC2=C1C=C(C=C2Br)Cl | C16H13BrClNO3
